US07371743B2
(a) 3-chloro-4-(3-dimethylamino-pyrrolidin-1-yl)-benzonitrile
0.75 g (4.82 mmol) 3-chloro-4-fluoro-benzonitrile together with 0.65 ml (0.58 g, 5.06 mmol) 3-dimethylamino-pyrrolidine in 12 ml DMF are combined with 231 mg (5.30 mmol) 55% sodium hydride dispersion at ambient temperature with stirring and under an argon atmosphere. After stirring at ambient temperature for 3.5 h the reaction mixture is poured into water and extracted with ethyl acetate after thorough mixing. The combined organic phases are washed with sat. sodium chloride solution, dried over magnesium sulphate and evaporated down completely i. vac.

reactant | 3-chloro-4-fluoro-benzonitrile | 4.82 mmol, 0.75 g | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
reactant | 3-dimethylamino-pyrrolidine | 5.06 mmol, 0.65 ml, 0.58 g | CN(C1CNCC1)C | C6H14N2
reactant | sodium hydride | 5.30 mmol, 231 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 3-chloro-4-(3-dimethylamino-pyrrolidin-1-yl)-benzonitrile | ClC=1C=C(C#N)C=CC1N1CC(CC1)N(C)C | C13H16ClN3
